US04476040
Methylation. 2-Formyl-1-hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene (42 g, 0.17 mol) was stirred with toluene (656 mL), and potassium hydroxide 85% (16.8 g, 0.255 mol) was added in one portion. The mixture was heated to 40° C., dimethyl sulfate (32.13 g, 0.255 mol) added at 40°-45° C. during 0.5 h, and the heating continued at 50° C. for an additional 1.5 h. The mixture was cooled to 20° C., neutralized with 5% HCl solution, then washed with water (20 mL), and finally washed with brine (25 mL). The solvent was removed by distillation and the residue distilled to give 2-formyl-1-methoxy-4,5,5,8,8- pentamethyl-5,6,7,8-tetrahydronaphthalene (36 g), bp 140°-142° C./1.5 mm, GLC purity 95%. Crystallization from hexane gave 28 g material, GLC purity 99%. 1H-NMR (CDCl3) δ10.23 (2 H, s), 7.41 (1H, s), 3.89 (3H, s), 2.52 (3H, s), 1.63 (4H, s), 1.42 (6H, s), 1.40 (6H, s). 13C-NMR (CDCl3) δ189.9 (1C, d), 162.3 (1C, s), 153.1 (1C, s), 139.9 (1C, s), 132.7 (1C, s), 131.3 (1C, d), 126.5 (1C, s), 66.0 (1C, q), 39.4 (1C, t), 38.2 (1C, t), 36.4 (1C, s), 35.6 (1C, s), 30.0 (2C, q), 28.9 (2C, q), 23.7 (1C, q). IR (KBr) 1683, 1235 cm-1, MS (m/e) 260.3 (M+, 46.3), 245.2 (100.0), 175 (38.5), 128 (31.1).

reactant | 2-Formyl-1-hydroxy-4,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalene | 0.17 mol, 42 g | C(=O)C1=C(C=2C(CCC(C2C(=C1)C)(C)C)(C)C)O | C16H22O2
reactant | potassium hydroxide | 0.255 mol, 16.8 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.255 mol, 32.13 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | HCl | Cl | ClH
solvent | toluene | 656 mL | C1(=CC=CC=C1)C | C7H8
product | 2-formyl-1-methoxy-4,5,5,8,8- pentamethyl-5,6,7,8-tetrahydronaphthalene | 36 g | C(=O)C1=C(C=2C(CCC(C2C(=C1)C)(C)C)(C)C)OC | C17H24O2
